data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_288948_2,[N:1]([C:3]([N:2]([H:7])[H:8])([O:5][H:6])[H:9])=[O:4]>>[N:1]([N:2]([H:7])[H:8])([C:3](=[O:5])[H:9])[O:4][H:6],31.1290200000218
MR_334379_0,[C:1]([C:2](/[C:7]([C:5]([H:21])([H:22])[H:23])=[C:9](\[C:6]([H:24])([H:25])[H:26])[H:14])([H:12])[H:13])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:8](=[O:10])[H:11]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:2]([H:12])([H:13])[C:7]1([C:5]([H:21])([H:22])[H:23])[C:9]([C:6]([H:24])([H:25])[H:26])([C:8](=[O:10])[H:11])[H:14],67.63194999999442
MR_35770_1,[C:1]([N:4]([N:5]([C:2]([H:13])([H:14])[H:15])[H:8])/[C:6](=[N:7]\[C:3]([H:16])([H:17])[H:18])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:6](/[N:7]([C:3]([H:16])([H:17])[H:18])[N:5]([C:2]([H:13])([H:14])[H:15])[H:8])[H:9])([H:10])([H:11])[H:12],72.93118750002677
MR_694704_1,[C@:1]([C:2](/[C:5]([C:4]([H:19])([H:20])[H:21])=[C:6](/[O:8][H:10])[H:12])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:7](=[O:9])[H:13])[H:11]>>[C@:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C:2]([H:14])([H:15])[C@:5]1([C:4]([H:19])([H:20])[H:21])[C@:6]([C:7](=[O:9])[H:13])([O:8][H:10])[H:12],71.505507499988
MR_142214_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:10])([H:17])[H:18])[O:6]/[C:5](=[N:7]/[H:8])[H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:10])([H:17])[H:18])[N:7]([C:5](=[O:6])[H:9])[H:8],44.16909749998581
MR_673101_0,[C:1]1([H:11])([H:12])[C:5]([N:7]([H:9])[H:10])=[C:6]([C:4]([H:17])([H:18])[H:19])[C:3]([H:15])([H:16])[C:2]([H:13])([H:14])[O:8]1>>[C:1]1([H:11])([H:12])[C:5]([C:6]2([C:4]([H:17])([H:18])[H:19])[C:2]([H:13])([H:14])[C:3]2([H:15])[H:16])([N:7]([H:9])[H:10])[O:8]1,72.62245749998584
MR_49616_0,[C:1](/[C:2]([N:3]([H:6])[H:7])=[N:5]\[H:8])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:2]([N:3]([H:6])[H:7])([N:5]([H:8])[H:10])[N:4]1[H:9],52.69807749999643
MR_66319_2,[C@@:1]12([C:2]([H:13])([H:14])[H:15])[N:3]([H:9])[C@@:5]([C:6](=[C:7]([H:16])[H:17])[H:12])([H:11])[C@:4]1([H:10])[O:8]2>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:6](=[C:7]([H:16])[H:17])[H:12])[N:3]([H:9])[C:5]([H:11])=[C:4]([H:10])[O:8]1,48.209569999986
MR_66588_0,[C:1]([C:2]([O:5][H:8])=[O:6])([C:3]([N:4]([H:9])[H:10])=[O:7])([H:11])[H:12]>>[C:1](=[C:3]([N:4]([H:9])[H:10])[O:7][C:2]([O:5][H:8])=[O:6])([H:11])[H:12],65.16713000004671
MR_702250_0,[C:1]1([H:13])([H:14])[C:6]([C:3]([N:5]([H:9])[H:10])=[O:8])([H:11])[C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]1[H:12]>>[C:1]1([H:13])([H:14])[C:6]([H:11])=[C:3]([N:5]([H:9])[H:10])[O:8][C:4]([C:2]([H:15])([H:16])[H:17])=[C:7]1[H:12],72.34824000000046
MR_615946_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:12])=[O:9])([C:5]([C:2]([O:8][H:13])([H:14])[H:15])=[O:10])[O:6][H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([C:2]([O:8][H:13])([H:14])[H:15])([C:4]([O:7][H:12])=[O:9])[O:10][H:11])=[O:6],40.94939500005353
MR_605220_1,[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:4]([N:3]([N:6]([H:11])[H:12])[C:7](=[C:8]([H:20])[H:21])[H:13])[O:9][H:10])([H:14])([H:15])[H:19]>>[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:3]\[N:6]([H:11])[H:12])[O:9][H:10])[C:7](=[C:8]([H:20])[H:21])[H:13])([H:14])([H:15])[H:19],66.7471749999811
MR_552318_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([O:6][O:5][O:7][H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([C:2]([H:11])([H:12])[H:13])([C:4]([O:5][O:7][H:8])([H:14])[H:15])[O:6]1,46.26118250001852
MR_459098_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[O:7][N:4]([H:9])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:8]>>[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:7][N:4]([H:9])[H:10],58.38824749996917
MR_381718_1,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[O:6])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:3](/[N:2]=[N:4]/[H:8])([O:6][H:9])[H:7])([N:5]([H:10])[H:11])([H:12])[H:13],59.988372499959866
MR_338695_0,[C:1]([O:6]/[C:4](=[C:2]([N:3]([H:8])[H:9])/[C:5](=[N:7]/[H:10])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([O:6]/[C:2]([N:3]([H:8])[H:9])=[C:4]([C:5](=[N:7]/[H:10])/[H:12])\[H:11])([H:13])([H:14])[H:15],58.15858249997831
MR_596229_0,[C@:1]([C:2]([H:16])([H:17])[H:18])(/[C:3](=[C:6](\[N:5]([H:13])[H:14])[H:15])[O:8][H:10])([N:4]([H:11])[H:12])[O:7][H:9]>>[C@@:1]1([C:2]([H:16])([H:17])[H:18])([N:4]([H:11])[H:12])[C:3]([O:7][H:9])([O:8][H:10])[C@:6]1([N:5]([H:13])[H:14])[H:15],50.86954250004737
MR_182234_1,[C:1]([C:3]12[N:2]([O:6][H:8])[C:4]1([H:9])[C:5]([H:10])=[N:7]2)([H:11])([H:12])[H:13]>>[C:1]([c:3]1[n:2]([O:6][H:8])[c:4]([H:9])[c:5]([H:10])[n:7]1)([H:11])([H:12])[H:13],22.79142749999167
MR_488233_1,[C:1]([N:4]([C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])([N:7]([H:13])[H:14])(/[N:9]=[C:5](\[C:3]([H:20])([H:21])[H:22])[N:8]([H:15])[H:16])[H:10]>>[C:1](\[N:7]([H:13])[H:14])(=[N:9]/[C:5]([C:3]([H:20])([H:21])[H:22])([N:4]([C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])[N:8]([H:15])[H:16])[H:10],43.46127750002509
